US09169254B2
Ammonium chloride (790 mg, 14.77 mmol) and a 28% aqueous ammonia solution (2.2 mL) were added to a solution of 1-(3-chloro-benzenesulfonyl)-piperidin-4-one (3.11 g, 11.36 mmol) in dimethylformamide (15 mL), and the mixture was stirred at room temperature for one hour. Thereafter, sodium cyanide (724 mg, 14.77 mmol) was added, and the mixture was further stirred for 17 hours and then quenched with a saturated aqueous sodium carbonate solution. The organic layer and the aqueous layer were separated, and the aqueous layer was then further extracted with ethyl acetate:n-hexane (4:1). The organic layers were combined, washed with water (×4), and then dried over anhydrous sodium sulfate and concentrated under reduced pressure. The residue was purified by silica gel column chromatography (n-hexane:ethyl acetate=1:3) to give 4-amino-1-(3-chloro-benzenesulfonyl)-piperidine-4-carbonitrile as a white solid (2.41 g, 71%).

reactant | Ammonium chloride | 14.77 mmol, 790 mg | [Cl-].[NH4+]
reactant | ammonia | 2.2 mL | N | H3N
reactant | 1-(3-chloro-benzenesulfonyl)-piperidin-4-one | 11.36 mmol, 3.11 g | ClC=1C=C(C=CC1)S(=O)(=O)N1CCC(CC1)=O | C11H12ClNO3S
reactant | sodium cyanide | 14.77 mmol, 724 mg | [C-]#N.[Na+]
solvent | dimethylformamide | 15 mL | CN(C=O)C | C3H7NO
product | 4-amino-1-(3-chloro-benzenesulfonyl)-piperidine-4-carbonitrile | 2.41 g, 71% | NC1(CCN(CC1)S(=O)(=O)C1=CC(=CC=C1)Cl)C#N | C12H14ClN3O2S
